Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Gastrointestinal discomfort, vomiting, and diarrhea 

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ woman with no significant PMH admitted for 
gastrointestinal discomfort with vomiting and diarrhea directly 
transferred from ___ for worsening transaminitis. Ms. 
___ was in her usual state of health until approximately 2 
weeks prior to her admission. After eating at ___, 
she developed dizziness, vomiting, diaphoresis, and muffled 
hearing a couple hours after her meal. Her episode resolved 
within an hour. Around the time of her episode of vomiting she 
developed a cough productive of white/yellow phlegm with no 
dyspnea or subjective fever, this has persisted for several 
weeks. 10 days after her episode of vomiting on ___, she 
developed lightheadedness, dizziness, and generalized abdominal 
discomfort with nausea, vomiting, and diarrhea ___ times per 
day. Her vomitus did not contain blood. Her diarrhea was watery 
and brown without black or red discoloration. When her symptoms 
continued to worsen over the next few days, she decided to go to 
___ on ___.  She had taken 1200 mg per day every few 
days for her abdominal discomfort and for cough and sleep she 
took Nyquil for a few days before her admission. Of note, pt 
also reports recent sexual activity within the last 6 months 
with intermittent condom use. Pt endorses walking in the 
woods/gardens in relation to her job. 

At ___, she had a fever of 102.3 on ___ and 100.6 on 
___. Admission LFTs on ___: AST 131 ALT 140, trended 
upward to AST 641 and ALT 584. 

Labs (___):
WBC 2.3 Neutrophils 42% Lymph 45% Mono 12%
H/H 12.8/39.2 MCV 69.8
BUN 6 Cr 0.7
___ 13.4 INR 1.19 
albumin 3.9 total protein 7.5 tbili 0.3 dbili <0.2
alkphos 59 alt 571 ast 692 lipase 29 Ca 9.2
iron index ___ ferritin 1478 transferrin 242 tibc 345 
ceruloplasmin 26 alpha-1-anti-trypsin 148 GGT 51

Urine: Bilirubin- small, Ketones- trace, Protein- 100, Bacteria- 
1+, Nitrites- neg

OSH Micro:
C. diff ___ negative
Culture blood ___ no growth
Mono negative
EBV negative 
HIV ___ negative

Imaging:
CXR OSH: no read available 
Abd Ultrasound OSH: unremarkable. no gallstones. normal common 
duct
CT ab/pelvis: no acute or concerning ab/pelvic process. solitary 
right groin lad nonspecific

Vitals prior to transfer: 
T: 98.7 BP 110/51 RR 18 P 61 O2sat 97

Upon admission to the floor, pt continues to have productive 
cough. She states she has had all her childhood vaccinations and 
should be up-to-date with all of them considering she works at a 
___ displaced children.

Review of Systems:  
(+) per HPI  
(-) chills, night sweats, headache, vision changes, rhinorrhea, 
congestion, sore throat, shortness of breath, chest pain, 
nausea,  constipation, BRBPR, melena, hematochezia, dysuria, 
hematuria. 

 
Past Medical History:
PAST MEDICAL HISTORY:
Recurrent strep throat prior to tonsil and adenoid sx
Childhood asthma on albuterol rescue- no dyspnea since middle 
school
Low vitamin D- stopped taking supplement 2 months ago
Fatigue- several years ago prescribed Iron and B12 presumably 
for anemia

PAST SURGICAL HISTORY:
Tonsillectomy ___
Adenoidectomy ___
Biopsy of left breast for abscess ___
 
Social History:
___ living with roommates in ___.   
Protestant with and older sister (___) and younger brother 
(___).
Works as a ___ at ___ ___ yrs), a ___ for 
displaced girls ___
Formerly worked at ___.
Last sexual intercourse with former boyfriend 2 months ago. 
Inconsistent condom use. She has a Implanon; first implant for ___ 
yrs now on ___ implant ___ yrs (progesterone birth control 
implant). Prior to implant, she had 5 partners with consistent 
condom use. She does not remember the last STI screening she 
had, but most recently had a negative HIV screen in ___. 

Habits:
EtOH: socially, average once per week, ___ margaritas
Smoker ___ years: 0.3 pack-year history (1 ___ days)
Marijuana: weekly ___ blunts
Other: never heroin, cocaine, MDMA
 
Family History:
Mother: ___, HTN, mild hirsutism
Father: ___
Sister: cardiac arrhythmia, HTN, mild hirsutism
PGMA: Diabetes ___
MGFA: Diabetes ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================  
Vitals- T99.3 127/68 79 16 98% RA
GENERAL: AAOx3, well appearing obese ___ woman, NAD
HEENT: Normocephalic, atraumatic. PERRL, EOMI. No conjunctival 
pallor or injection, sclera anicteric and without injection. 
MMM. Oropharynx is clear. No LAD
CARDIAC: RRR, no murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. 
ABDOMEN: Normal bowels sounds in all quadrants, non-distended. 
Mild tenderness in RUQ to palpation. No splenomegaly. 
Hepatomegaly not appreciated. 
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Mild hirsutism. No evidence of ulcers, rash or lesions 
suspicious for malignancy
NEUROLOGIC: CN2-12 intact: no nystagmus or saccades, sensation 
to touch bilaterally, symmetric smile, hearing to finger rub, 
tongue midline, uvula midline, SCM and trapezius strong. ___ 
strength throughout. Normal sensation to touch. 

DISCHARGE EXAM
==============
Vitals:  Tmax 99.3/Tcurr 98.7 111/53 64 17 99%RA 
GENERAL: AOx3, well appearing obese ___ woman, NAD
HEENT: Normocephalic, atraumatic. PERRL, EOMI. No conjunctival 
pallor or injection, sclera anicteric. MMM. Oropharynx is clear. 
No LAD
CARDIAC: RRR, no murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. 
ABDOMEN: Normal bowels sounds in all quadrants, non-distended. 
Mild tenderness in RUQ to palpation. No splenomegaly. 
Hepatomegaly not appreciated. Inguinal LAD not appreciated. 
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Mild hirsutism. No evidence of ulcers, rash or lesions 
suspicious for malignancy.
NEUROLOGIC: CN2-12 intact: no nystagmus or saccades, sensation 
to touch bilaterally, hearing to finger rub, tongue midline, SCM 
and trapezius strong. Motor and sensation grossly intact.

 
Pertinent Results:
ADMISSION LABS
==============
___ 05:20AM BLOOD WBC-2.4* RBC-5.58* Hgb-12.2 Hct-40.6 
MCV-73* MCH-21.9* MCHC-30.0* RDW-15.8* RDWSD-39.8 Plt ___
___ 05:20AM BLOOD Neuts-16* Bands-0 ___ Monos-22* 
Eos-1 Baso-1 Atyps-12* ___ Myelos-0 AbsNeut-0.38* 
AbsLymp-1.44 AbsMono-0.53 AbsEos-0.02* AbsBaso-0.02
___ 05:20AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-1+ Ovalocy-1+ 
Target-OCCASIONAL Burr-1+
___ 05:20AM BLOOD ___ PTT-27.2 ___
___ 05:20AM BLOOD Plt Smr-NORMAL Plt ___
___ 05:20AM BLOOD Glucose-106* UreaN-6 Creat-0.7 Na-138 
K-3.8 Cl-100 HCO3-27 AnGap-15
___ 05:20AM BLOOD ALT-684* AST-589* LD(LDH)-579* CK(CPK)-82 
AlkPhos-62 TotBili-0.4
___ 05:20AM BLOOD Albumin-3.8 Calcium-8.9 Phos-4.4 Mg-2.2 
UricAcd-4.5 Iron-76
___ 05:20AM BLOOD calTIBC-345 Hapto-315* ___ 
TRF-265
___ 05:20AM BLOOD HAV Ab-Positive* IgM HAV-Negative
___ 05:20AM BLOOD HIV Ab-UNABLE TO  HIV1-NEGATIVE 
HIV2-NEGATIVE
___ 05:20AM BLOOD Ethanol-NEG Acetmnp-NEG

NOTABLE LABS
===========

HIV-1 Viral Load/Ultrasensitive (Final ___: 
      833,000 copies/ml. 

PENDING LABS
============

___: Anaplasma, CMV, Lyme, Hepatitis B/C, CD4
 

IMAGING
=======

___ 
ABD U/S ___: unremarkable. no gallstones. normal common duct 
CT ABD/PELVIS ___: no acute or concerning ab/pelvic process. 
solitary right groin lad nonspecific

 
DISCHARGE LABS
==============
___ 06:40AM BLOOD WBC-3.2* RBC-5.53* Hgb-12.3 Hct-39.4 
MCV-71* MCH-22.2* MCHC-31.2* RDW-16.7* RDWSD-39.8 Plt ___
___ 06:40AM BLOOD Neuts-25* Bands-0 Lymphs-58* Monos-10 
Eos-0 Baso-1 Atyps-3* ___ Myelos-0 Other-3* AbsNeut-0.80* 
AbsLymp-1.95 AbsMono-0.32 AbsEos-0.00* AbsBaso-0.03
___ 06:40AM BLOOD Hypochr-NORMAL Anisocy-OCCASIONAL 
Poiklo-OCCASIONAL Macrocy-NORMAL Microcy-1+ Polychr-OCCASIONAL 
Ovalocy-OCCASIONAL
___ 06:40AM BLOOD Plt Smr-NORMAL Plt ___
___ 06:40AM BLOOD ___ PTT-27.1 ___
___ 06:40AM BLOOD Glucose-99 UreaN-5* Creat-0.7 Na-138 
K-3.7 Cl-100 HCO3-27 AnGap-15
___ 06:40AM BLOOD ALT-543* AST-326* LD(LDH)-368* AlkPhos-65 
TotBili-0.5
___ 06:40AM BLOOD Albumin-3.8 Calcium-9.0 Phos-4.4 Mg-2.___ who p/w gastrointestinal discomfort with vomiting and 
diarrhea directly transferred from ___ for worsening 
transaminitis with persistent cough productive of clear/yellow 
sputum and found to have mild RUQ abdominal tenderness to 
palpation. 

ACUTE ISSUES
============

#Acute HIV: Pt presented from OSH with transaminitis in addition 
to leukopenia, lymphocytosis, elevated ferritin/LDH, right groin 
LAD on OSH CT Abd with a history of a flu-like illness 
(diarrhea, N/V, fevers). Presentation was c/f viral etiology and 
HIV VL came back positive at 833,000 c/w acute HIV infection. 
HIV antibodies were negative. Tylenol/alcohol were negative on 
toxicology screen. Lab tests for CMV, anaplasma, Lyme, hepatitis 
B/C were pending at the time of discharge. At ___ 
hepatitis B/C and EBV were tested, results still pending. 
Leukopenia, lymphocytosis, elevated ferritin/LDH and 
lymphadenopathy are all likely ___ acute HIV reaction. Fevers, 
N/V had resolved at the time of transfer and diarrhea was 
resolving at the time of discharge.  

#Severe Neutropenia: Lymphocytic leukopenia: ___ labs showed 
WBC 2.4 with lymphs 48 monos 22, absneutro 0.38, and atypicals. 
Likely ___ acute HIV reaction. Previous labs from ___ showed 
normal WBC and neutrophil counts in ___. Neutropenia resolved 
at the time of discharge (WBC 3.2, ANC 800). 

#Diarrhea: History of diarrhea as described above, likely ___ 
Acute HIV infection. Improving from watery diarrhea to loose 
stool ___. Tolerating normal diet.   

#Proteinuria: 100 mg/dL noted at OSH. Proteinuria likely ___ 
inflammation.

#Microcytosis: MCV 71. In ___, ___ records show WBC 8.4 Hb 11.6 
MC 72.5 Plt 246. Iron at OSH were notable for an elevated 
ferritin, normal Fe index, transferrin and TIBC. Iron studies 
here show normal values with transferrin saturation 22%. 
Ferritin is likely acute phase response due to inflammatory 
state. Microcytosis is possibly thalassemia. Blood smear was 
unremarkable. Can consider hemoglobin electrophoresis as 
outpatient to complete work up. 

CHRONIC ISSUES
==============

#Hirsutism: C/f PCOS given obesity, but given lack of associated 
symptoms, possibly hereditary given both mother and sister also 
have facial hair.

===================
TRANSITIONAL ISSUES
- F/u CBC and LFTs checked within one week to confirm resolving 
neutropenia and transaminitis 
- Given low MCV consider hemoglobin electrophoresis as an 
outpatient to rule out thalassemia
- Please get urinalysis to check for resolution of proteinuria
- needs resistance testing, CD4, confirmatory HIV viral load, 
and initiation of ARV
- would benefit from additional emotional support in setting of 
new HIV dx

>30 min spent on discharge on day of discharge- attempted to 
contact PCP but unable to reach MD on multiple attempts, 
arranged for outpatient ID-HIV follow up at ___. 

CODE: FULL
CONTACT: ___ ___ (mother)
 
Medications on Admission:
NONE
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Acute Hepatitis
- Acute HIV infection

Secondary Diagnoses:
-Neutropenia
-Microcytosis
-Hirsutism
-Proteinuria

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to be part of your care.

You were admitted to the hospital because you were experiencing 
abdominal discomfort, nausea, vomiting, and diarrhea and you 
were found to have inflammation of your liver at ___.
 
These symptoms are consistent with a viral infection and so we 
tested you for a number of different viruses. You were found to 
have a positive HIV test (we were able to detect the presence of 
HIV virus in your blood). HIV is not a curable disease, however 
with new medications it is a disease that can be very well 
controlled and not interfere with your day to day life. 

Please contact any recent sexual partners to let them know that 
they should receive HIV testing. We would also recommend 
avoiding any sexual activity for now because the virus is very 
contagious at the moment.

If you experience any fevers, nausea, vomiting, diarrhea, or any 
symptoms of infection, please contact your doctor.

Please follow up with your doctors to get ___ testing 
of your HIV and to start treatment. You should call your primary 
care doctor after you leave the hospital. In case your primary 
care doctor does not treat HIV, we made an appointment for you 
with an HIV doctor ___ below for your appointment). Feel free 
to cancel the appointment we made if your primary care doctor 
treats HIV.

Thank you for letting us take part in your medical care.

We wish you the best

Sincerely,
Your ___ Health Team
 
Followup Instructions:
___